datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[H:29]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:29])([H:15])([H:16])[H:17],21.0037
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:4])[H:13])[C:5]([O:6])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]=[O:4])[C:5]([O:6][H:13])([H:14])[H:15])([H:7])([H:8])[H:9],56.9053288
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:8])[H:11])([H:9])[H:10],140.164
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]([C:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]1([H:15])[H:16])[H:9])[H:8],77.5714
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:30],9.3094
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[S:19][H:26])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[S:19][H:26],-22.1752
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:17])([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23],64.601
[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])([H:11])[H:12])[H:10]>>[C:0](=[C:1]1[C:2]([H:11])([H:12])[C:3]1([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:10],99.66288
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([H:23])([H:24])[H:25]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:22]([H:23])([H:24])[H:25],28.8278
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:13][O:21][O:22],199.11656
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],38.9112
[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8].[O:15][O:16]>>[C:0](#[C:1][c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:8].[H:9][O:15][O:16],-1.61084
[C:0]([S:1][S:2][C:3]([H:6])([H:7])[H:8])([H:4])[H:5]>>[C:0]1([H:4])([H:5])[S:1][S:2]1.[C:3]([H:6])([H:7])[H:8],144.766
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9],5.8576
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:24])[H:25])[H:23])=[C:17]([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:17]([C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])[H:5],25.8571
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])[H:4].[H:5][C:10]([H:11])([H:12])[H:13],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]=[S:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:15])=[S:14],59.8312
